US05246926
(a) t-Butyl (6R,7R)-7-amino-3-[(5S)-2-oxo-tetrahydrofuran-5-yl]ceph-3-em-4-carboxylate
Phosphorus pentachloride (0.35 g,1.7 mmol) in dichloromethane (9 ml) was added to t-butyl (6R,7R)-3-[(5S)-2-oxotetrahydrofuran-5-yl]-7-phenoxyacetamido-ceph-3-em-4-carboxylate (0.526 g, 1.1 mmol) and N-methylmorpholine (0.24 ml, 2.2 mmol) in dichloromethane (15 ml) at <-20° C. The reaction was stirred at -15±5° C. for 0.75 h then methanol (3 ml) was added. Stirring was continued for 0.75 h without further cooling and then water (10 ml) was added and the mixture was stirred vigorously for 1 h. The dichloromethane was removed in vacuo, ethyl acetate (ca 10 ml) added, the mixture adjusted to pH5.5 with dilute ammonium hydroxide solution and extracted twice with ethyl acetate. The extracts were washed with brine, dried, concentrated and flash chromatographed, eluting with 40,50,75% ethyl acetate in hexane, to give the title compound as a foam (0.15 g,40%); (Found: M+, 340.1097. C15H20N2O5S requires M, 340.1093); νmax (CH2Cl2) 1770,1710,1362,1350,1235 and 1170 cm-1 ; δH (CDCl3) 1.54 (9H,s), 1.9-2.1 (1H,m), 2.5-2.8 (3H,m), 3.27 and 3.56 (2H,ABq,J18.5 Hz), 4.80 (1H,d,J5Hz), 4.96 (1H,d,J5 Hz), 5.6-5.7 (1H,m).

reactant | Phosphorus pentachloride | 1.7 mmol, 0.35 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | t-butyl (6R,7R)-3-[(5S)-2-oxotetrahydrofuran-5-yl]-7-phenoxyacetamido-ceph-3-em-4-carboxylate | 1.1 mmol, 0.526 g | O=C1O[C@@H](CC1)C=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C23H26N2O7S
reactant | N-methylmorpholine | 2.2 mmol, 0.24 ml | CN1CCOCC1 | C5H11NO
reactant | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | t-Butyl (6R,7R)-7-amino-3-[(5S)-2-oxo-tetrahydrofuran-5-yl]ceph-3-em-4-carboxylate | 0.15 g, 40% | N[C@H]1[C@@H]2N(C(=C(CS2)[C@@H]2CCC(O2)=O)C(=O)OC(C)(C)C)C1=O | C15H20N2O5S
